US06417212B1
A mixture of the toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester (66.9 mmol) and 2-(3-hydroxyphenoxy)-2-methylpropanoic acid ethyl ester (Columbia University WO 9731530) (12.5 g, 55.71 mmol) and Cs2CO3 (22.7 g, 69.6 mmol) was heated at 55° C. in DMF (45 mL) for 18 h. The reaction was partitioned between ethyl acetate (160 mL) and H2O (180 mL), and the aqueous phase extracted with ethyl acetate (150 mL). The combined organic phases were dried (MgSO4) and concentrated under reduced pressure to an oil which was purified by column chromatography (1500 mL SiO2, 10% ethyl acetate/hexanes to 20% ethyl acetate/hexanes) to provide 2-{3-[2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester. Rf=0.50 in 20% ethyl acetate/hexanes; 1H NMR (400 MHz, CDCl3) δ8.18 (s, 1H), 7.95 (d, 1H), 7.65-7.59 (m, 3H), 7.44-7.39 (m, 3H), 7.36 (t, 1H), 7.08 (t, 1H), 6.55 (d, 1H), 6.41 (s, 1H), 6.37 (d, 1H), 4.20-4.14 (m, 4H), 2.97 (t, 2H), 2.38 (s, 3H), 1.57 (s, 6H), 1.20 (t, 3H); MS (EI) 508.2 (M+Na)+, 486.2 (M+H)+.

reactant | toluene-4-sulfonic acid 2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethyl ester | 66.9 mmol | C1(=CC(=CC=C1)C=1OC(=C(N1)CCOS(=O)(=O)C1=CC=C(C=C1)C)C)C1=CC=CC=C1 | C25H23NO4S
reactant | 2-(3-hydroxyphenoxy)-2-methylpropanoic acid ethyl ester | 55.71 mmol, 12.5 g | C(C)OC(C(C)(C)OC1=CC(=CC=C1)O)=O | C12H16O4
reactant | Cs2CO3 | 69.6 mmol, 22.7 g | C(=O)([O-])[O-].[Cs+].[Cs+]
solvent | DMF | 45 mL | CN(C)C=O | C3H7NO
product | 2-{3-[2-(2-biphenyl-3-yl-5-methyloxazol-4-yl)ethoxy]phenoxy}-2-methylpropionic acid ethyl ester | C(C)OC(C(C)(C)OC1=CC(=CC=C1)OCCC=1N=C(OC1C)C=1C=C(C=CC1)C1=CC=CC=C1)=O | C30H31NO5
